US08293897B2
A mixture of (5S)-4-methyl-5-(hydroxymethyl)-4-azaspiro[2.4]heptane (0.2 g, 1.42 mmol) and triethylamine (0.287 g, 2.84 mmol, Shantou Xilong chemical factory) in 5 mL of dichloromethane was stirred at 0° C. for 30 min. To the mixture was added methanesulfonyl chloride (0.325 g, 2.84 mmol, Shanghai Haiqu chemical. Ltd.) via a syringe. The reaction mixture was stirred at 0° C. for 4 hrs and quenched with a mixture of 5 mL of saturated Na2CO3 aqueous solution and 5 mL of water. The resulted mixture was extracted with dichloromethane (20 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo to give ((5S)-4-methyl-4-azaspiro[2.4]heptane-5-yl)methyl methanesulfonate as yellow oil (150 mg, 48%).

reactant | (5S)-4-methyl-5-(hydroxymethyl)-4-azaspiro[2.4]heptane | 1.42 mmol, 0.2 g | CN1C2(CC2)CC[C@H]1CO | C8H15NO
reactant | triethylamine | 2.84 mmol, 0.287 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.84 mmol, 0.325 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ((5S)-4-methyl-4-azaspiro[2.4]heptane-5-yl)methyl methanesulfonate | 150 mg, 48% | CS(=O)(=O)OC[C@H]1N(C2(CC2)CC1)C | C9H17NO3S
